US04410539
A mixture of 3-methyl-5-(3-pyridylmethyl)benzofuran-2-carboxylic acid (0.28 g.), carbonyldiimidazole (0.28 g.) and dioxan (5 ml.) was heated on a steam bath for 2 hours and then evaporated. The residue was dissolved in a concentrated solution of ammonia in ethanol (10 ml.), the solution was allowed to stand for 30 minutes and then evaporated. The residue was chromatographed on silica gel. Elution with chloroform first gave a small amount of impurity followed by pure product. Evaporation of the product-containing fractions gave a solid which was crystallized from isopropanol/petrol (b.p. 60°-80°) to give 3-methyl-5-(3-pyridylmethyl)benzofuran-2-carboxamide (0.16 g.), m.p. 175°-177° C.

reactant | 3-methyl-5-(3-pyridylmethyl)benzofuran-2-carboxylic acid | 0.28 g | CC1=C(OC2=C1C=C(C=C2)CC=2C=NC=CC2)C(=O)O | C16H13NO3
reactant | carbonyldiimidazole | 0.28 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | 3-methyl-5-(3-pyridylmethyl)benzofuran-2-carboxamide | 0.16 g | CC1=C(OC2=C1C=C(C=C2)CC=2C=NC=CC2)C(=O)N | C16H14N2O2
